US07037929B1
Preparation of N-(5-bromo-thiazol-2-yl)-4-sulfamoylbenzamide
To a mixture of 4-sulfamoylbenzoic acid (1.0 g, 4.97 mmol), Et3N (1.5 ml, 10.78 mmol), DMF (5 ml) and THF (5 ml) isobutyl choroformate (0.70 ml, 5.36 mmol) was added dropwise at −10° C. After stirring for 1 h, a solution of 2-amino-5-bromothiazole hydrobromide (1,55 g, 5.96=mol) and Et3N (0.83 ml, 5.96 mmol) in DMF (6 ml) and THF (4 ml) was added dropwise to the mixture at the same temperature.

reactant | 4-sulfamoylbenzoic acid | 4.97 mmol, 1.0 g | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | Et3N | 10.78 mmol, 1.5 ml | CCN(CC)CC | C6H15N
reactant | 2-amino-5-bromothiazole hydrobromide | 1,55 g | Br.NC=1SC(=CN1)Br
reactant | Et3N | 5.96 mmol, 0.83 ml | CCN(CC)CC | C6H15N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 5.36 mmol, 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(5-bromo-thiazol-2-yl)-4-sulfamoylbenzamide | BrC1=CN=C(S1)NC(C1=CC=C(C=C1)S(N)(=O)=O)=O | C10H8BrN3O3S2
